US07709653B2
Synthesis of 4-methyl-7-chloroquinoline
32.8 g. (0.2 mol) 3-chloroaniline hydrochloride, 81 g. ferric trichloride hexahydrate (0.3 mol), 3.0 g. redried anhydrous zinc chloride and 150 mL 95% ethanol were added into a 500 mL 3-neck flask equipped with a reflux condenser, a magnetic stirrer with heating, a thermometer and a constant-pressure dropping funnel, and the mixture was stirred and heated to 60° C. 12.6 g. (0.18 mol) methyl vinyl ketone was added slowly through the constant-pressure dropping funnel while maintaining the temperature at 60-70° C., followed by raising the temperature to reflux for 2 hours. After cooling, the mixed solution was added with 25% aqueous sodium hydroxide until alkaline. The solvent was then distilled off under reduced pressure until dry. The resulting solids were removed and repeatedly extracted with anhydrous ethyl ether. The extracts were collected, dried over anhydrous potassium carbonate and filtered. After removing the solvent, the residue was purified in a silica column using hexane/ethyl acetate (3:1) as the mobile phase to afford 11.38 g. of product.

reactant | 3-chloroaniline hydrochloride | 0.2 mol | Cl.ClC=1C=C(N)C=CC1
reactant | methyl vinyl ketone | 0.18 mol | C(=C)C(=O)C | C4H6O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-methyl-7-chloroquinoline | CC1=CC=NC2=CC(=CC=C12)Cl | C10H8ClN
